US09126998B2
4-Fluoro-2-nitropyridin-3-ol
With ice cooling, 500 mg (3.43 mmol) of 4-fluoropyridin-3-ol hydrochloride were dissolved carefully in 3.2 ml of concentrated sulphuric acid, and, at 0° C., 0.21 ml of concentrated nitric acid was added carefully. The reaction was warmed to RT and stirred at RT overnight. The mixture was then added to 10 g of ice, and 6 ml of 45% strength aqueous sodium hydroxide solution were added dropwise with ice cooling. The resulting precipitate was filtered off and then dried under reduced pressure overnight. This gave 191 mg (36% of theory) of the title compound.

reactant | 4-fluoropyridin-3-ol hydrochloride | 3.43 mmol, 500 mg | Cl.FC1=C(C=NC=C1)O
reactant | nitric acid | 0.21 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulphuric acid | 3.2 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Fluoro-2-nitropyridin-3-ol | FC1=C(C(=NC=C1)[N+](=O)[O-])O | C5H3FN2O3
